US07666888B2
4-(4-Chlorophenyl)-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}piperidin-4-ol
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 4-(4-chlorophenyl)-4-hydroxypiperidine (12.7 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (8.2 mg). Calcd for C22H21ClN2O3: 396.1241, found 396.1239.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | 0.060 mmol, 12.7 mg | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
product | 4-(4-Chlorophenyl)-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}piperidin-4-ol | ClC1=CC=C(C=C1)C1(CCN(CC1)C(=O)C=1C=NOC1C1=CC=C(C=C1)C)O | C22H21ClN2O3
